US07544717B2
A.1. Ethyl N-(4-Ethylphenyl)-beta-alaninate
To a solution of 4-ethyl aniline (10.0 g) in acetic acid (25 mL) was added ethyl acrylate (10.8 g). The mixture was heated to 80° C. for 2 hours. Additional ethyl acrylate (1.0 mL) was added, and the mixture was again heated to 80° C. for 1 hour. The mixture was allowed to cool to room temperature and stir for two days. Sodium hydroxide (8N) was added until the pH equaled 9. The mixture was partitioned between dichloromethane and water and the combined organics were washed once with 1N sodium hydroxide, once with brine, dried with sodium sulfate, filtered, and concentrated. The mixture was chromatographed using a 20% ethyl acetate in heptane solvent solution. A mixture of the mono and di ester product (19.5 g) were obtained (1:1 mixture). MS (ESI+) for C13H19NO2 m/z 221.99 (M+H)+.

reactant | 4-ethyl aniline | 10.0 g | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | ethyl acrylate | 10.8 g | C(C=C)(=O)OCC | C5H8O2
reactant | ethyl acrylate | 1.0 mL | C(C=C)(=O)OCC | C5H8O2
reactant | Sodium hydroxide | 8N | [OH-].[Na+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | Ethyl N-(4-Ethylphenyl)-beta-alaninate | C(C)C1=CC=C(C=C1)NCCC(=O)OCC | C13H19NO2
